US07259183B2
Preparation of 4-bromo-2-chloro-1-isopropenylbenzene
The title compound was synthesized in analogy to 1-bromo-4-isopropenylbenzene (described in example S87) using triphenylphosphonium bromide (2.32 g, 6.51 mmol), nBuLi (5.09 ml, 1.6M solution in hexane, 8.14 mmol) and 1-(4-bromo-2-chlorophenyl)-ethanone (1.52 g, 6.51 mmol) in DMSO (7 ml). The residue which was isolated was purified by filtration through a short pad of silica using pentane as eluant to give 4-bromo-2-chloro-1-isopropenylbenzene (750 mg, 50%) as a colorless oil. 1H NMR (CDCl3, 300 MHz): δ 7.51 (d, J=2.0 Hz, 1H), 7.34 (dd, J=2.0, 8.0 Hz, 1H), 7.07 (d, J=8.0 Hz, 1H), 5.24 (m, 1H), 4.96 (m, 1H), 2.07 (m, 3H).

reactant | 1-bromo-4-isopropenylbenzene | BrC1=CC=C(C=C1)C(=C)C | C9H9Br
reactant | triphenylphosphonium bromide | 6.51 mmol, 2.32 g | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | nBuLi | 8.14 mmol, 1.6M, 5.09 ml | [Li]CCCC
reactant | 1-(4-bromo-2-chlorophenyl)-ethanone | 6.51 mmol, 1.52 g | BrC1=CC(=C(C=C1)C(C)=O)Cl | C8H6BrClO
solvent | DMSO | 7 ml | CS(=O)C | C2H6OS
product | 4-bromo-2-chloro-1-isopropenylbenzene | 750 mg, 50% | BrC1=CC(=C(C=C1)C(=C)C)Cl | C9H8BrCl
